US03952031
2β-Ethoxy-3α-hydroxy-5α-pregn-16-ene-11,20-dione.
2α, 3α-Epoxy-5α-pregn-16-ene-11,20-dione (3 g.) was dissolved with warming in dry ethanol (80 ml.). The solution was stirred and allowed to cool to room temperature. Concentrated sulphuric acid (0.7 ml.) was added and the solution was stirred at room temperature for 30 minutes. Potassium bicarbonate solution (10%, 35 ml.) was added and the mixture poured into ice-cold water (1 liter) and extracted with chlorform (2 × 200 ml.). The extract was dried over sodium sulphate and evaporated to a colourless oil (2.73 g.) which was purified by preparative TLC in ethyl acetate/petrol 1/1, the plates being run 3 times and the main UV-absorbing, band separated and recrystallised from ethyl acetate/ petrol to give title compound (950 mg.) as fine white crystals, m.p. 89-91° [α]D ± 77° c 0.3).

reactant | 2α, 3α-Epoxy-5α-pregn-16-ene-11,20-dione | 3 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H28O3
reactant | sulphuric acid | 0.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | Potassium bicarbonate | 35 ml | C([O-])(O)=O.[K+]
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 2β-Ethoxy-3α-hydroxy-5α-pregn-16-ene-11,20-dione | 950 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C23H34O4
